US05972975
Step D: 5-Ethynyl-4-methyl-2-(trimethylacetyl)aminopyridine
To a mixture of 5-iodo-4-methyl-2-trimethylacetylaminopyridine (176 mg, 0.55 mmol) in tetrahydrofuran (0.60 mL), triethyamine (3.32 mL), bis(triphenylphosphine)palladium(II) chloride (4 mg), copper(I) iodide (1.1 mg) and (trimethylsilyl)acetylene (117 uL, 0.83 mmol) were added. The mixture was stirred at room temperature for 3 h. The mixture was diluted with chloroform (50 mL), dried (Na2SO4), and evaporated to give a tan solid. The crude solid was dissolved in methanol (5 mL), treated with 1N potassium hydroxide (0.61 mL) and stirred at room temperature 18 h. The mixture was evaporated to dryness, dissolved in chloroform (50 mL), dried over Na2SO4, and evaporated to a solid. The product was purified by silica gel column chromatography using 10% ethyl acetate/hexane to yield the title compound.

reactant | 5-iodo-4-methyl-2-trimethylacetylaminopyridine | 0.55 mmol, 176 mg | IC=1C(=CC(=NC1)NC(C(C)(C)C)=O)C | C11H15IN2O
reactant | (trimethylsilyl)acetylene | 0.83 mmol, 117 uL | C[Si](C)(C)C#C | C5H10Si
reactant | potassium hydroxide | 1N, 0.61 mL | [OH-].[K+]
solvent | tetrahydrofuran | 0.60 mL | O1CCCC1 | C4H8O
solvent | triethyamine | 3.32 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 mL | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.1 mg | [Cu]I
product | 5-Ethynyl-4-methyl-2-(trimethylacetyl)aminopyridine | C(#C)C=1C(=CC(=NC1)NC(C(C)(C)C)=O)C | C13H16N2O
